datasets/10k__Tet_Int.csv
SMILES Labelled
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)[H]>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCC)[H])[H]>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCC)[H])[H] 10=20;20,21=21"
"[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[NH][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[NH][H] 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)[H])CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1C)[H])CCCCCC.[O-:21]CC 10=20;20,21=21"
"[O-:10]C(C)C([H])C([C:20]([H])=[O:21])O>>[O-:21][C:20]1([H])[O:10]C(C)C([H])C1O 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C8=CC=CC=C8)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(CC)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[O]2.C[NH:10][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C1=CC=CC=C1)C>>CCN([C:20]1(OC(C(C([O:21]1)[H])[H])C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"[H][S:10]C(C)C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[H][O:10]C(C)C([H])[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[O:21]=[C:20](OCC)O[H].[O-:10][H]>>[H][O:10][C:20]([O-:21])(OCC)O[H] 10=20;20,21=21"
"C1=CC=CC=C1[O+:10]([Na])[C:21]([O-:20])(OCCCCCC)OCC>>[O:20]=[C:21](OCCCCCC)OCC.C1=CC=CC=C1[O:10][Na] 20=21;21,10=10"
"[NH:10]([H])C([H])C(O)C([H])C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C([H])C(O)C([H])[NH+:10]1([H]) 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CC)CCCCCC)[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CC)CCCCCC)CCCCCC 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C([O-:21])CC)CCCCCC)[H]>>CN([C:20]1(OC(C([O:21]1)CC)CCCCCC)[O-:10])[H] 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C)[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"CN([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)C)C>>CN([C:20](=[O:10])C)C.C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]CC)[O][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]CC)[O][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(CC)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(C)C(O)C([H])C(C)C(CC)[O:10]1>>[O-:10]C(CC)C(C)C([H])C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[OH:21][C:20]1([H])[OH+:10]C(C)C(C)C1[H]>>[OH:10]C(C)C(C)C([C:20]([H])=[OH+:21])[H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][O:10]C([H])C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[Li][O+:21]([C:20]([O-:10])(O[H])OC1=CC=CC=C1)CCCCCC>>[Li][O:21]CCCCCC.[C:20](=[O:10])(O[H])OC1=CC=CC=C1 10=20;20,21=21"
"[H][NH:10]C(CC)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(C)[NH][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[H][S:10]C([H])C([H])C(CC)[S][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(CC)[S]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
